US08314250B2
A solution of ((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (1.6 g, 6.20 mmol, 1.0 equiv.) in dry HCl-ethyl acetate (31 mL) was stirred overnight at room temperature under nitrogen. Ethyl acetate was distilled off under reduced pressure to give crude (S)-4,4,N1,N1-tetramethyl-pentane-1,2-diamine hydrochloride salt (1.4 g) as a white solid.

reactant | ((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 6.20 mmol, 1.6 g, 1.0 equiv. | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CN(C)C)=O | C14H30N2O2
reactant | HCl ethyl acetate | 31 mL | Cl.C(C)(=O)OCC
product | (S)-4,4,N1,N1-tetramethyl-pentane-1,2-diamine hydrochloride salt | 1.4 g | Cl.CC(C[C@@H](CN(C)C)N)(C)C | InChI=1S/C9H22N2.ClH/c1-9(2,3)6-8(10)7-11(4)5;/h8H,6-7,10H2,1-5H3;1H/t8-;/m0./s1
